US08372864B2
79 mg of N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-2-(2-methoxyethyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-5-carboxamide are dissolved in 2 cm3 of dioxane at a temperature close to 20° C. 1 cm3 of a 4M solution of hydrochloric acid in ethyl ether is added while stirring under argon, at a temperature of 20° C. The reaction mixture is concentrated under vacuum at a temperature of 40° C. 83 mg of N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-2-(2-methoxyethyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride (1:1) are obtained in the form of a white powder.

reactant | N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-2-(2-methoxyethyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-5-carboxamide | 79 mg | FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C(F)(F)F)O)NC(=O)C=2C=3CCN(C(C3C=CC2)=O)CCOC)C=C(C1)F | C33H34F5N3O4
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 2 cm3 | O1CCOCC1 | C4H8O2
solvent | ethyl ether | C(C)OCC | C4H10O
product | N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-2-(2-methoxyethyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride | 83 mg | Cl.FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C(F)(F)F)O)NC(=O)C=2C=3CCN(C(C3C=CC2)=O)CCOC)C=C(C1)F | InChI=1S/C33H34F5N3O4.ClH/c1-45-13-12-41-11-8-25-26(6-3-7-27(25)31(41)44)30(43)40-28(16-20-14-23(34)18-24(35)15-20)29(42)19-39-32(9-10-32)21-4-2-5-22(17-21)33(36,37)38;/h2-7,14-15,17-18,28-29,39,42H,8-13,16,19H2,1H3,(H,40,43);1H/t28-,29+;/m0./s1
